US03984467
Following a procedure similar to that described in Example 42 and using 2.3 g. sodium in 250 ml. dry acetone, 16.4 g. heptanamidine hydrochloride, and 16 g. 2-chloro-4-methylphenyl isothiocyanate (b.p. 80°-82°C./0.3 mm.; prepared from 2-chloro-4-methylaniline) in 100 ml. dry acetone there was obtained 1-(2-chloro-4-methylphenyl)-3-(heptanimidoyl)-2-thiourea, m.p. 78°-80°C. (from benzene-n-pentane); hydrochloride (23 g.), m.p. 138°-140°C. (from isopropyl alcohol).

reactant | sodium | [Na] | Na
reactant | acetone | CC(=O)C | C3H6O
reactant | heptanamidine hydrochloride | Cl.C(CCCCCC)(=N)N
reactant | 2-chloro-4-methylphenyl isothiocyanate | ClC1=C(C=CC(=C1)C)N=C=S | C8H6ClNS
solvent | benzene n-pentane | C1=CC=CC=C1.CCCCC
product | 1-(2-chloro-4-methylphenyl)-3-(heptanimidoyl)-2-thiourea | ClC1=C(C=CC(=C1)C)NC(=S)NC(CCCCCC)=N | C15H22ClN3S
